US07700623B2
To a water (2.3 mL) suspension of 1.0 g of 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine were added 0.72 g of hydrochloric acid, 6 mL of 2-propanol, and 0.5 mL of water at room temperature, which was then stirred at 40° C. Thereto was added 9 mL of 2-propanol, which was then stirred under cooling with ice for one hour. The precipitated crystals were collected by filtration to provide 1.4 g of 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine trihydrochloride pentahydrate as colorless crystals. These crystals were used as seed crystals.

reactant | water | 2.3 mL | O | H2O
reactant | 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine | 1.0 g | NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=N)N)C=C2)C=C1)=N | C25H35N5O2
reactant | hydrochloric acid | 0.72 g | Cl | ClH
reactant | water | 0.5 mL | O | H2O
solvent | 2-propanol | 9 mL | CC(C)O | C3H8O
solvent | 2-propanol | 6 mL | CC(C)O | C3H8O
product | 4-{3-[4-(3-{4-[amino(imino)methyl]phenoxy}propyl)-1-piperidinyl]propoxy}benzamidine trihydrochloride pentahydrate | 1.4 g | O.O.O.O.O.Cl.Cl.Cl.NC(C1=CC=C(OCCCC2CCN(CC2)CCCOC2=CC=C(C(=N)N)C=C2)C=C1)=N | InChI=1S/C25H35N5O2.3ClH.5H2O/c26-24(27)20-4-8-22(9-5-20)31-17-1-3-19-12-15-30(16-13-19)14-2-18-32-23-10-6-21(7-11-23)25(28)29;;;;;;;;/h4-11,19H,1-3,12-18H2,(H3,26,27)(H3,28,29);3*1H;5*1H2
